US06448290B1
Methyl 4-(2-Cyclopentylsulfinylamino-5-trifluoromethylphenoxymethyl)benzoate
To a solution of methyl 4-(2-amino-5-trifluoromethylphenoxymethyl)benzoate (300 mg) in methylene chloride (3.0 ml), pyridine (187 μml) and triphenylphosphine (315 mg) were added in a stream of argon. At 0° C., cyclopentylsulfonylchloride (202 mg) was added dropwise thereto. The mixture was stirred for 6 hours at room temperature. To the reaction mixture, water was added. The mixture was extracted with ethyl acetate, washed, dried over and concentrated with the reduced pressure. The residue was purified on silica gel column chromatography (hexane:AcOEt=2:1→1:1) to give the title compound (309 mg) having the following physical data.

reactant | methyl 4-(2-amino-5-trifluoromethylphenoxymethyl)benzoate | 300 mg | NC1=C(OCC2=CC=C(C(=O)OC)C=C2)C=C(C=C1)C(F)(F)F | C16H14F3NO3
reactant | triphenylphosphine | 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cyclopentylsulfonylchloride | 202 mg | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
reactant | water | O | H2O
solvent | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Methyl 4-(2-Cyclopentylsulfinylamino-5-trifluoromethylphenoxymethyl)benzoate | 309 mg | C1(CCCC1)S(=O)NC1=C(OCC2=CC=C(C(=O)OC)C=C2)C=C(C=C1)C(F)(F)F | C21H22F3NO4S
